US08283354B2
A stirring solution of 4-chloro-2-(2-methoxyphenyl)-7-methylquinazoline (91 g, 320 mmol) and CH2Cl2 (2.0 L) under an N2 atmosphere was cooled to −30° C. Boron tribromide (957 mL, 957 mmol, 1.0 M in CH2Cl2) was added dropwise over a period of 30 minutes at −30 to −40° C. The cooling bath was removed, and the mixture was allowed to warm to 25° C. The mixture was carefully poured into a stirring solution of saturated aqueous NaHCO3 (4.0 L). The organic portion was separated, dried over MgSO4, and evaporated to dryness. The resulting solid was suspended in CH2Cl2 (400 mL) under an N2 atmosphere, followed by the addition of triethylamine (64.8 g, 640 mmol). The solution was cooled to −10° C. A solution of piperazine (55.0 g, 640 mmol) in CH2Cl2 (400 mL) was added in a single portion, and the solution was stirred at ambient temperature for 1 hour. The solution temperature rose to 23° C. upon addition of the piperazine. The solution was partitioned between CH2Cl2 and H2O. The organic portion was dried over MgSO4 and evaporated to dryness. The residue was purified via silica gel chromatography using 5% MeOH in CH2Cl2 to obtain a tan solid. The resulting solid was triturated with 1:1 Et2O/hexanes to obtain a yellow solid which was vacuum dried to give 2-(7-methyl-4-piperazin-1-yl-quinazolin-2-yl)-phenol as a light yellow solid (93.0 g, 290 mmol, 91%). LC/MS: m/z 321.1 (M+H)+ at 2.34 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 4-chloro-2-(2-methoxyphenyl)-7-methylquinazoline | 320 mmol, 91 g | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)OC | C16H13ClN2O
reactant | Boron tribromide | 957 mmol, 1.0 M, 957 mL | B(Br)(Br)Br | BBr3
reactant | triethylamine | 640 mmol, 64.8 g | C(C)N(CC)CC | C6H15N
reactant | piperazine | 640 mmol, 55.0 g | N1CCNCC1 | C4H10N2
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2.0 L | C(Cl)Cl | CH2Cl2
product | 2-(7-methyl-4-piperazin-1-yl-quinazolin-2-yl)-phenol | 290 mmol, 93.0 g, 91% | CC1=CC=C2C(=NC(=NC2=C1)C1=C(C=CC=C1)O)N1CCNCC1 | C19H20N4O
